US06930185B2
4′-Chloro-N-[6-[(N,N-dimethylamino)methyl]-2-naphthyl][1,1′-biphenyl]-4-carboxamide
The tert-butyl 6-[(N,N-dimethylamino)methyl]-2-naphthylcarbamate (237 mg, 0.789 mmol) obtained in Reference Example 1 was dissolved in trifluoroacetic acid (4 ml), the solution was stirred at room temperature for 1 hour, and the solvent was concentrated under reduced pressure. To the residue were added ethyl acetate and an aqueous potassium carbonate solution, and the mixture was extracted with ethyl acetate. The extract was washed with an aqueous saturated sodium chloride solution, dried over anhydrous sodium sulfate and concentrated under reduced pressure. The resulting residue, 4′-chlorobiphenylcarboxylic acid (184 mg, 0.789 mmol) and dimethylaminopyridine (96.4 mg, 0.789 mmol) were dissolved in N,N-dimethylformamide (4 ml), 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (151 mg, 0.789 mmol) was added thereto under ice-cooling, and the mixture was stirred at room temperature for 16 hours. To the reaction solution were added ethyl acetate and an aqueous potassium carbonate solution, the mixture was extracted, the organic layer was washed with an aqueous saturated sodium chloride solution, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The residue was purified by alumina column chromatography (developing solvent: ethyl acetate), and the insolubles were crystallized from a mixed solution of ethyl acetate and diisopropyl ether (1:5) to obtain the titled compound (207 mg) as a white powder.

reactant | tert-butyl 6-[(N,N-dimethylamino)methyl]-2-naphthylcarbamate | 0.789 mmol, 237 mg | CN(C)CC=1C=C2C=CC(=CC2=CC1)NC(OC(C)(C)C)=O | C18H24N2O2
reactant | 4′-chlorobiphenylcarboxylic acid | 0.789 mmol, 184 mg | ClC1=CC=C(C=C1)C=1C(=CC=CC1)C(=O)O | C13H9ClO2
reactant | dimethylaminopyridine | 0.789 mmol, 96.4 mg | CN(C)C1=NC=CC=C1 | C7H10N2
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 0.789 mmol, 151 mg | Cl.C(C)N=C=NCCCN(C)C
solvent | trifluoroacetic acid | 4 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | N,N-dimethylformamide | 4 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4′-Chloro-N-[6-[(N,N-dimethylamino)methyl]-2-naphthyl][1,1′-biphenyl]-4-carboxamide | 207 mg | ClC1=CC=C(C=C1)C1=CC=C(C=C1)C(=O)NC1=CC2=CC=C(C=C2C=C1)CN(C)C | C26H23ClN2O
